US08022075B2
N1,N1-Di(2-pyridylmethyl)-2-[3-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-1H-1-pyrazolyl]acetamide
2-[3-(4-Imidazo[1,2-a]pyridin-2-ylphenyl)-1H-1-pyrazolyl]acetic acid (51 mg), 2,2′-dipicolylamine (32 mg), and 1-hydroxybenzotriazole (27 mg) were dissolved in N,N-dimethylformamide (1 mL), and triethylamine (56 μL) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (38 mg) were added to the solution, followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with chloroform and then drying over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to flash column chromatography. Fractions eluted by dichloromethane-methanol (20:1) were concentrated under reduced pressure, and the solid was recovered through filtration by use of diethyl ether, to thereby yield the title compound (58 mg).

reactant | 2-[3-(4-Imidazo[1,2-a]pyridin-2-ylphenyl)-1H-1-pyrazolyl]acetic acid | 51 mg | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)C2=NN(C=C2)CC(=O)O | C18H14N4O2
reactant | 2,2′-dipicolylamine | 32 mg | C1=CC=NC(=C1)CNCC2=CC=CC=N2 | C12H13N3
reactant | 1-hydroxybenzotriazole | 27 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 38 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 56 μL | C(C)N(CC)CC | C6H15N
product | N1,N1-Di(2-pyridylmethyl)-2-[3-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-1H-1-pyrazolyl]acetamide | 58 mg | N1=C(C=CC=C1)CN(C(CN1N=C(C=C1)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)=O)CC1=NC=CC=C1 | C30H25N7O
